US08729068B2
To a mixture of 3.34 g of methyl 4-[3-(4-{[(2-amino-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)propyl]benzoate, 2.2 mL of triethylamine, and 40 mL of dichloromethane were added a mixture of 2.2 g of 3-(chlorosulfonyl)benzoyl chloride and 10 mL of dichloromethane under ice-cooling, followed by stirring at room temperature for 7 hours. The reaction mixture was concentrated under reduced pressure and the residue was suspended in ethanol. The precipitate was collected by filtration to obtain 1.42 g of methyl 4-[3-(4-{[(2-{[3-(chlorosulfonyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)propyl]benzoate as a yellow solid.

reactant | methyl 4-[3-(4-{[(2-amino-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)propyl]benzoate | 3.34 g | NC=1SC2=C(C1C(=O)NC1=CC=C(C=C1)CCCC1=CC=C(C(=O)OC)C=C1)CCCC2 | C26H28N2O3S
reactant | triethylamine | 2.2 mL | C(C)N(CC)CC | C6H15N
reactant | 3-(chlorosulfonyl)benzoyl chloride | 2.2 g | ClS(=O)(=O)C=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O3S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | methyl 4-[3-(4-{[(2-{[3-(chlorosulfonyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)propyl]benzoate | 1.42 g | ClS(=O)(=O)C=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1 | C33H31ClN2O6S2
